US06399627B1
To a solution of ethyl (Z)-4,4,4-trifluoro-3-{[(trifluoromethyl)sulfonyl]-oxy}-2-butenoate (250 mg, 0.79 mmol) in 5 ml anhydrous dioxane was added potassium phosphate (251 mg, 1.19 mmol), 3-cyanophenyl boronic acid (116 mg, 0.79 mmol), and tetrakis (triphenylphosphine)palladium(0) (23 mg, 0.02 mmol). Reaction mixture was heated to reflux and stirred overnight. Mixture was filtered through a pad of Celite, diluted with 50 ml ethyl acetate, washed with 2×50 ml water, 2×50 ml saturated brine solution, dried over magnesium sulfate, filtered and concentrated in vacuo. Residue was chromatographed on silica gel using 20% EtOAc in hexane as the eluent to give ethyl (2E)-3-(3-cyanophenyl)-4,4,4-trifluorobut-2-enoate (150 mg, 79%) as a yellow residue after drying. H1NMR (CDCl3) 1.107-1.142 (t, 3H); 4.04-4.107 (m, 2H); 6.684 (s, H); 7.38-7.72 (m, 4H).

reactant | ethyl (Z)-4,4,4-trifluoro-3-{[(trifluoromethyl)sulfonyl]-oxy}-2-butenoate | 0.79 mmol, 250 mg | FC(/C(=C/C(=O)OCC)/OS(=O)(=O)C(F)(F)F)(F)F | C7H6F6O5S
reactant | potassium phosphate | 1.19 mmol, 251 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 3-cyanophenyl boronic acid | 0.79 mmol, 116 mg | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | ethyl (2E)-3-(3-cyanophenyl)-4,4,4-trifluorobut-2-enoate | 150 mg, 79% | C(#N)C=1C=C(C=CC1)\C(=C/C(=O)OCC)\C(F)(F)F | C13H10F3NO2
